US04994569
(5RS, 6SR)-6-Phenyl-2-(2-thienyl)-5,6-dihydro-4H-1,3-oxazin-5-ol may be obtained in the following manner: working as described in Example 22 for the preparation of (5RS, 6SR)-2-(2-fluorophenyl)-6-phenyl-5,6-dihydro-4H-1,3-oxazin-5-ol, but starting with (E)-N-cinnamyl-2-thiophenecarboxamide (5 g), a 0.55 M solution (38 cc) of 3-chloroperbenzoic acid in dichloromethane and boron trifluoride etherate (3.2 g), and after recrystallization in dichloromethane, (5RS, 6SR)-6-phenyl-2-(2-thienyl)-5,6-dihydro-4H-1,3-oxazin-5-ol (2.9 g), m.p. 158° C., is obtained.

reactant | (5RS, 6SR)-2-(2-fluorophenyl)-6-phenyl-5,6-dihydro-4H-1,3-oxazin-5-ol | FC1=C(C=CC=C1)C=1OC(C(CN1)O)C1=CC=CC=C1 | C16H14FNO2
reactant | (E)-N-cinnamyl-2-thiophenecarboxamide | 5 g | C(\C=C\C1=CC=CC=C1)NC(=O)C=1SC=CC1 | C14H13NOS
product | (5RS, 6SR)-6-phenyl-2-(2-thienyl)-5,6-dihydro-4H-1,3-oxazin-5-ol | 2.9 g | C1(=CC=CC=C1)C1C(CN=C(O1)C=1SC=CC1)O | C14H13NO2S
